US04698329
N-{4(S)-[N-Benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-3-(2-thienyl)-DL-alanyl]amino-3(S)-hydroxy-6-methylheptanoyl}-L-isoleucinol (Compound No. 218)
517 mg (1 mmole) of N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-3-(2-thienyl)-DL-alanine hydrazide were dissolved in 10 ml of dimethylformamide, and the solution was cooled down to -60° C. 0.85 ml (3.4 mmole) of 4N hydrogen chloride in dioxane was then added. The temperature of this mixture was elevated to -20° C., and then 0.16 ml (1.19 mmole) of isoamyl nitrile was added and the mixture was stirred for 10 minutes. The reaction product was again cooled down to -60° C., and 0.42 ml (3.82 mmole) of N-methylmorpholine was added for neutralization. Subsequently, 370 mg (1.2 mmole) of 4(S)-amino-3(S)-hydroxy-6-methylheptanoyl-L-isoleucinol hydrochloride were added, and the mixture was stirred for 30 minutes. The reaction product was stirred overnight at 0° C., condensed by evaporation under reduced pressure and purified by thin layer chromatography, using as developing solvent a 99:1 by volume mixture of chloroform and methanol, to yield 100 mg (13.2%) of the title compound melting at 160°-162° C., [α]23 -61.7° (C=0.3, dimethylformamide).

reactant | N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-3-(2-thienyl)-DL-alanine hydrazide | 1 mmole, 517 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC2=CC=CC=C12)C(=O)NC(CC=1SC=CC1)C(=O)NN | C28H28N4O4S
reactant | hydrogen chloride | 3.4 mmole, 4N, 0.85 ml | Cl | ClH
reactant | N-methylmorpholine | 3.82 mmole, 0.42 ml | CN1CCOCC1 | C5H11NO
reactant | 4(S)-amino-3(S)-hydroxy-6-methylheptanoyl-L-isoleucinol hydrochloride | 1.2 mmole, 370 mg | Cl.N[C@H]([C@]([C@H](NC(CCCCC(C)C)=O)CO)(C)O)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-{4(S)-[N-Benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-3-(2-thienyl)-DL-alanyl]amino-3(S)-hydroxy-6-methylheptanoyl}-L-isoleucinol | 100 mg, 13.2% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC2=CC=CC=C12)C(=O)NC(CC=1SC=CC1)C(=O)N[C@H]([C@H](CC(=O)N[C@@H]([C@@H](C)CC)CO)O)CC(C)C | C42H54N4O7S
